US06949573B2
2-Chloro-5-fluoro nicotinic acid (5.00 g, 28.48 mmol) (see Preparation 41), was dissolved in dichloromethane (200 ml) and N,N-dimethylformamide (1 drop) was added, followed by addition of oxalyl chloride (7.45 ml, 85.44 mmol). The reaction mixture was held at room temperature for 18 hours, after which the solvent was removed in vacuo. The residue was then suspended in dichloromethane (150 ml) and triethylamine (11.91 ml, 85.44 mmol) added followed by addition of 4-amino-piperidine-1-carboxylic acid tert-butyl ester (6.85 g, 34.18 mmol). The reaction mixture was then stirred under an atmosphere of nitrogen at room temperature for 64 hours before being washed sequentially with water (2-fold 100 ml), a saturated aqueous solution of sodium chloride (100 ml) and a 10% solution of citric acid in water (50 ml). The organic phase was separated, dried over anhydrous magnesium sulphate and the solvent was removed in vacuo giving 4-[(2-chloro-5-fluoro-pyridine-3-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (8.7 g) as an off-white solid.

reactant | 2-Chloro-5-fluoro nicotinic acid | 28.48 mmol, 5.00 g | ClC1=C(C(=O)O)C=C(C=N1)F | C6H3ClFNO2
reactant | oxalyl chloride | 85.44 mmol, 7.45 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 85.44 mmol, 11.91 ml | C(C)N(CC)CC | C6H15N
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 34.18 mmol, 6.85 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | 4-[(2-chloro-5-fluoro-pyridine-3-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 8.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)C=1C(=NC=C(C1)F)Cl | C16H21ClFN3O3
